US07741485B2
3-[4-Chloro-2-fluoro-5-{[isopropyl(methyl)amino]carbonylaminosulfonyl}phenyl]-1-methyl-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine
With stirring, 1.0 g (2.34 mmol) of 2-chloro-4-fluoro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-(2H)-pyrimidin-1-yl]benzenesulfonyl isocyanate in 1,2-dichloroethane was added to a solution of 0.34 g (4.68 mmol) of N-methylisopropylamine in 1,2-dichloroethane, and the mixture was stirred overnight. The reaction mixture was concentrated, the residue was taken up in methylene chloride and 0.5N hydrochloric acid was added. The organic phase was then dried and the solvent was removed. This gave 0.5 g (42% of theory) of the title compound as a colorless solid (m.p.: 145° C.).

reactant | 2-chloro-4-fluoro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-(2H)-pyrimidin-1-yl]benzenesulfonyl isocyanate | 2.34 mmol, 1.0 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)S(=O)(=O)N=C=O | C13H6ClF4N3O5S
reactant | N-methylisopropylamine | 4.68 mmol, 0.34 g | CNC(C)C | C4H11N
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3-[4-Chloro-2-fluoro-5-{[isopropyl(methyl)amino]carbonylaminosulfonyl}phenyl]-1-methyl-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | ClC1=CC(=C(C=C1S(=O)(=O)NC(=O)N(C)C(C)C)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C17H17ClF4N4O5S
